US07863332B2
684 mg (17.1 mmol, 10 eq) of sodium hydroxide are added to a solution of 750 mg (1.71 mmol, 1 eq) of ethyl 3-[3′-(3-octyl-1-methylureido)biphenyl-4-yl]propanoate in 15 mL of ethanol. The reaction mixture is heated at 50° C. for 6 hours. The reaction medium is evaporated to dryness, taken up in water, acidified with 1N hydrochloric acid solution and extracted with ethyl acetate. The organic phases are combined, washed with water and dried over sodium sulfate. The solvent is evaporated off and the orange oil obtained is chromatographed on silica gel (30 g FlashSmart Pack column) eluted with 30/70 heptane/ethyl acetate and then crystallized from ethyl ether, filtered and dried. 500 mg of 3-[3′-(3-octyl-1-methylureido)biphenyl-4-yl]propanoic acid are obtained in the form of a white powder (m.p.=86-88° C.). Yield=71%

reactant | sodium hydroxide | 17.1 mmol, 684 mg, 10 eq | [OH-].[Na+]
reactant | ethyl 3-[3′-(3-octyl-1-methylureido)biphenyl-4-yl]propanoate | 1.71 mmol, 750 mg, 1 eq | C(CCCCCCC)NC(N(C)C=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)OCC)=O | C27H38N2O3
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-[3′-(3-octyl-1-methylureido)biphenyl-4-yl]propanoic acid | 500 mg, Yield=71% | C(CCCCCCC)NC(N(C)C=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)O)=O | C25H34N2O3
